US05025031
Sulfamic 2-(3-methoxyphenoxy)ethyl ester
The title compound was prepared by procedures of Example 4 from sulfamoyl chloride and 2-(3-methoxyphenoxy)ethanol through the first evaporation step to give a brown, viscous, oily residue. The oil was dissolved in 300 ml of ethyl ether. The organic solution was washed with two 300 ml portions of water, dried over magnesium sulfate and the solvent evaporated under reduced pressure to give a viscous, oily residue for the second time. The oil was purified by chromatography using silica gel and methylene chloride-acetone in 90:1 ratio as eluting agent. Fractions containing the title compound were combined and solvents evaporated under reduced pressure to give a viscous oil which solidified on standing. The solid was recrystallized from ethyl-petroleum ether (30°-60° C.) to give the title compound as white solid, mp 78°-82° C., in 46% yield.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-(3-methoxyphenoxy)ethanol | COC=1C=C(OCCO)C=CC1 | C9H12O3
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | Sulfamic 2-(3-methoxyphenoxy)ethyl ester | COC=1C=C(OCCOS(N)(=O)=O)C=CC1 | C9H13NO5S
